US08871790B2
Compound 118.11. 6-Chloro-N-(5-(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-3-carbonyl)-2-methylphenyl)nicotinamide
To a solution of (3-Amino-4-methylphenyl)(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexan-3-yl)methanone (150 mg, 0.47 mmol) and Et3N (0.25 mL, 1.8 mmol) in CH2Cl2 (4 mL) at 0° C. was added 6-chloronicotinoyl chloride (106 mg, 0.6 mmol). The ice bath was removed after the addition. The reaction mixture was stirred at room temperature for 1.5 h and then purified by flash column chromatography with EtOAc in hexane (60%, then 100%) to give the title compound as a white foam (0.172 g, 80% yield). MS [M+H]+: 462, 464.

reactant | (3-Amino-4-methylphenyl)(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexan-3-yl)methanone | 0.47 mmol, 150 mg | NC=1C=C(C=CC1C)C(=O)N1CC2C(C2C1)C1=CC=C(C=C1)OC | C20H22N2O2
reactant | Et3N | 1.8 mmol, 0.25 mL | CCN(CC)CC | C6H15N
reactant | 6-chloronicotinoyl chloride | 0.6 mmol, 106 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-N-(5-(6-(4-methoxyphenyl)-3-azabicyclo[3.1.0]hexane-3-carbonyl)-2-methylphenyl)nicotinamide | 0.172 g, 80% yield | ClC1=NC=C(C(=O)NC2=C(C=CC(=C2)C(=O)N2CC3C(C3C2)C2=CC=C(C=C2)OC)C)C=C1 | C26H24ClN3O3
